US07504401B2
To a solution of [2-(4-methoxy-benzyloxy)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-pyridin-3-yl-methanone (42 mg, 0.07 mmol) in dichloromethane (0.5 mL) and dimethylsulfide (0.5 mL) at 0° C. was added TFA (1 mL) dropwise. After stirring at 0° C. for 30 mins, the starting material was gone. Saturated aqueous NaHCO3 was added to adjust the pH of the mixture to around 6, and the reaction mixture was extracted with EtOAc several times. The combined EtOAc layers were washed with brine, dried and concentrated. Purification by silica gel column chromatography, followed by further preparative SFC chromatography afforded 3.1 mg (14%) of [2-hydroxy-5-(1H-indol-4-yl)-phenyl]-pyridin-3-yl-methanone as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 11.87 (s, 1H), 9.13-8.89 (m, 1H), 8.88-8.69 (m, 1H), 8.37-8.23 (m, 1H), 8.04 (d, J=7.6 Hz, 1H), 7.91 (dd, J=8.6, 2.1 Hz, 1H), 7.81 (d, J=2.1 Hz, 1H), 7.49-7.40 (m, 1H), 7.37 (d, J=8.2 Hz, 1H), 7.27-7.19 (m, 4H), 7.05 (d, J=7.4 Hz, 1H), 6.57 (s, 1H).

reactant | [2-(4-methoxy-benzyloxy)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-pyridin-3-yl-methanone | 0.07 mmol, 42 mg | COC1=CC=C(COC2=C(C=C(C=C2)C2=C3C=CN(C3=CC=C2)[Si](C(C)C)(C(C)C)C(C)C)C(=O)C=2C=NC=CC2)C=C1 | C37H42N2O3Si
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | dimethylsulfide | 0.5 mL | CSC | C2H6S
product | [2-hydroxy-5-(1H-indol-4-yl)-phenyl]-pyridin-3-yl-methanone | 3.1 mg, 14% | OC1=C(C=C(C=C1)C1=C2C=CNC2=CC=C1)C(=O)C=1C=NC=CC1 | C20H14N2O2
